US04035386
A solution of 6 g. of 3-(8-chloro-dibenzo[b,f]thiepin-10-yl)-2-propyn-1-ol in 50 ml. of pyridine is treated dropwise at -10° C. to 0° C. with 1.7 ml. of methanesulfonyl chloride in 10 ml. of pyridine and stirred at this temperature for 2 hours. After pouring onto ice, acidification with hydrochloric acid and extraction with ether, there is obtained 3-(8-chloro-dibenzo[b,f]thiepin-10-yl)-2-propyn-1-ol mesylate which melts at 100°-102° C. after recrystallizatin from ether.

reactant | 3-(8-chloro-dibenzo[b,f]thiepin-10-yl)-2-propyn-1-ol | ClC=1C=CC2=C(C(=CC3=C(S2)C=CC=C3)C#CCO)C1 | C17H11ClOS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-(8-chloro-dibenzo[b,f]thiepin-10-yl)-2-propyn-1-ol mesylate | S(C)(=O)(=O)OCC#CC1=CC2=C(SC3=C1C=C(C=C3)Cl)C=CC=C2 | C18H13ClO3S2
